US04686221
A mixture of 2-(2,3,4,5-tetrafluorobenzoyl)acetonitrile (13.1 g), ethyl orthoformate (13.4 g) and acetic anhydride (15.4 g) is heated at 100° C. with stirring for 3 hours. The reaction mixture is concentrated under vacuum to yield an orange brownish oily residue. When the oily residue is allowed to stand at room temperature, it crystallizes slowly. The resulting crystals are collected and washed successively with a 2:1 mixture of hexane and ethyl acetate, and a 5:1 mixture of hexane and ethyl acetate to give 3-ethoxy-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile (14.5 g) as light orange crystals, m.p. 99°-101° C.

reactant | 2-(2,3,4,5-tetrafluorobenzoyl)acetonitrile | 13.1 g | FC1=C(C(=O)CC#N)C=C(C(=C1F)F)F | C9H3F4NO
reactant | ethyl orthoformate | 13.4 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 15.4 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-ethoxy-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile | 14.5 g | C(C)OC=C(C#N)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C12H7F4NO2
